US04857527
A mixture of methyl 4-methyl-2-(3-nitrophenyl)-6-phenyl-3-pyridinecarboxylate (4.08 g), aqueous sodium hydroxide (0.94 g in 10 ml water), dioxane (20 ml) and methanol (80 ml) was refluxed for 14 hours. After allowing to cool to ambient temperature, the reaction mixture was poured into a mixture of water (150 ml) and chloroform (100 ml). The separated aqueous layer was adjusted to pH 2.9 with 10% aqueous hydrochloric acid. To this mixture was added acetic acid (15 ml) and stirred for 30 minutes under ice cooling. The resulting precipitates were collected by filtration, washed with water and dried in vacuo to give 4-methyl-2-(3-nitrophenyl)-6-phenyl-3-pyridinecarboxylic acid (2.80 g).

reactant | methyl 4-methyl-2-(3-nitrophenyl)-6-phenyl-3-pyridinecarboxylate | 4.08 g | CC1=C(C(=NC(=C1)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC | C20H16N2O4
reactant | sodium hydroxide | 10 ml, 0.94 g | [OH-].[Na+]
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 150 ml | O | H2O
solvent | methanol | 80 ml | CO | CH4O
product | 4-methyl-2-(3-nitrophenyl)-6-phenyl-3-pyridinecarboxylic acid | 2.80 g | CC1=C(C(=NC(=C1)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)O | C19H14N2O4
